US05681954
1-(3,4-Dimethoxybenzyl)-3,4-dihydro-6,7-dimethoxyisoquinoline Hydrochloride
A solution of 570 g of N-(3,4-dimethoxyphenethyl)-2-(4,5-dimethoxyphenyl)acetamide and 500 ml of phosphorus oxychloride in 3500 ml of acetonitrile was heated under reflux for 0.5 hour. The solvent was evaporated, and ethanol was added to the residue, followed by allowing to stand. The thus precipitated crystal was collected by filtration to yield 590 g of the titled compound.

reactant | N-(3,4-dimethoxyphenethyl)-2-(4,5-dimethoxyphenyl)acetamide | 570 g | COC=1C=C(CCNC(CC2=CC=C(C(=C2)OC)OC)=O)C=CC1OC | C20H25NO5
reactant | phosphorus oxychloride | 500 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 3500 ml | C(C)#N | C2H3N
product | 1-(3,4-Dimethoxybenzyl)-3,4-dihydro-6,7-dimethoxyisoquinoline Hydrochloride | 590 g | Cl.COC=1C=C(CC2=NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | InChI=1S/C20H23NO4.ClH/c1-22-17-6-5-13(10-18(17)23-2)9-16-15-12-20(25-4)19(24-3)11-14(15)7-8-21-16;/h5-6,10-12H,7-9H2,1-4H3;1H
